2190-01-31 09:49:00 Physician Attending Progress Note
Chief Complaint: AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **] yo [**Hospital1 69**] resident at [**Location (un) 1792**] [**Hospital1 **]  with worsening mental status and
   found to be hypernatremic with Na 177
   Received 1 liter NS in ED, then switched to 1/2 NS at 100 cc/hour
   24 Hour Events:
   History obtained from Medical records, ICU housestaff
   Patient unable to provide history: demented
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-1-31**] 08:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-1-31**] 04:24 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-1-31**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 60 (60 - 76) bpm
   BP: 153/49(70) {111/41(56) - 162/78(127)} mmHg
   RR: 23 (16 - 23) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
             1,740 mL
   PO:
             TF:
   IVF:
   740 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,390 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 90%
   ABG: ///17/
   Physical Examination
   General Appearance: No(t) No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4, (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), shallow
   breaths
   Abdominal: Soft, Non-tender, +bs
   Extremities: No(t) Cyanosis, No(t) Clubbing, boots bilaterally
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, scattered ecchymoses
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, No(t) Sedated, No(t)
   Paralyzed, Tone: increased with contractures
   Labs / Radiology
   12.5 g/dL
   134 K/uL
   106 mg/dL
   2.0 mg/dL
   17 mEq/L
   4.4 mEq/L
   107 mg/dL
   176 mEq/L
   41.6 %
   9.5 K/uL
        [image002.jpg]
                            [**2190-1-31**]  03:47 AM
   WBC
   9.5
   Hct
   41.6
   Plt
   134
   Cr
   2.0
   Glucose
   106
   Other labs: Ca++:9.5 mg/dL, Mg++:2.7 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: U/a mode LE , moderate bacteria
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 URINARY TRACT INFECTION (UTI)
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
   [**Age over 90 **] yo female found to have severe hypernatremia due to [**Last Name (un) **] of spont po
   intake, diuretics, volume depletion
   Hypernatremia:
   *restore adequate volume
   *free water currently D5W @100 cc/h- recheck 'lytes q3-4 hours
   UTI
   On CTX, f/u urine cultures
   AMS- probably nearing baseline, per MICU nurse in conversation with
   pt
s daughter, with aggravating factors including the UTI and
   hypernatremia
   CXR: HH/widened mediastinum
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-1-31**] 02:39 AM
   Prophylaxis:
   DVT: HepSQ
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU, may go to floor later if sodium levels correcting
   Total time spent: 33 minutes
   Patient is critically ill

2190-02-01 12:21:00 Physician Attending Progress Note
Chief Complaint: Altered Mental Status
   Hypernatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with improved responsivness
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-1-31**] 08:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-2-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2190-2-1**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 50 (48 - 67) bpm
   BP: 151/94(146) {107/31(48) - 173/140(149)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
             Total In:
                                                                  2,273 mL
                                                                    605 mL
   PO:
             TF:
   IVF:
                                                                  1,273 mL
                                                                    605 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    425 mL
   Urine:
                                                                    965 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,308 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///14/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Non-verbal, mild hand squeeze to command
   Labs / Radiology
   12.5 g/dL
   134 K/uL
   110 mg/dL
   1.7 mg/dL
   14 mEq/L
   4.4 mEq/L
   84 mg/dL
   144 mEq/L
   170 mEq/L
   41.6 %
   9.5 K/uL
        [image002.jpg]
                            [**2190-1-31**]  03:47 AM
                            [**2190-1-31**]  09:02 AM
                            [**2190-1-31**]  01:32 PM
                            [**2190-2-1**]  04:51 AM
   WBC
   9.5
   Hct
   41.6
   Plt
   134
   Cr
   2.0
   1.9
   1.8
   1.7
   Glucose
   106
   106
   110
   Other labs: Ca++:10.0 mg/dL, Mg++:2.4 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   [**Age over 90 **] yo female with history of dementia and admitted with hypernatremia
   and altered mental status.
   1)Altered Mental Status-Likely relates to baseline compromise and
   significant hypernatremia.
   -Follow exam
   -correct sodium
   2) HYPERNATREMIA (HIGH SODIUM)-Urine OSMS were >600 on initial
   evaluation and with poor urine output
   -WIll need urine osms to follow for fluid needs and source of
   significant and remarkable elevation in sodium.
   -Reasonable to move to
 NS in the setting of likely significant volume
   depletion
   -Will need to consider PICC placement for fluids and blood draws as we
   need continued blood draws
   3)Urinary Tract Infection-
   -CTX inplace
   ICU Care
   Nutrition: Supervised feeds
   Glycemic Control:
   Lines:
   22 Gauge - [**2190-1-31**] 08:06 PM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:  Will update daughter in full and prelim
   discussions held in regards to diffulty with IV access
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 40 minutes

2190-02-02 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   167-->162 on D5W at 100/hr then did not change in 6 hours so trying NS
   125/hr. Difficult stick, may need PICC for frequent draws.
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-1-31**] 08:37 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-2-1**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-2-2**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 63 (48 - 65) bpm
   BP: 145/63(84) {117/32(48) - 182/140(146)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 60 Inch
             Total In:
                                                                  1,672 mL
                                                                     33 mL
   PO:
             TF:
   IVF:
                                                                  1,672 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    225 mL
   Urine:
                                                                    725 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    947 mL
                                                                   -192 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General:  Lying in bed, no acute distress, smiles when nurse comes in
   Chest:  CTA b/l, no wheezes, rales, or rhonchi
   Cardiac:  Normal S1 and S2; 3/6 systolic murmur that radiates to axilla
   Abdomen:  +BS, soft, non-tender, non-distended
   Extremities:  No edema bilaterally
   Labs / Radiology
   99 K/uL
   12.2 g/dL
   88 mg/dL
   1.4 mg/dL
   21 mEq/L
   5.1 mEq/L
   59 mg/dL
   133 mEq/L
   161 mEq/L
   37.3 %
   5.7 K/uL
        [image002.jpg]
                            [**2190-1-31**]  03:47 AM
                            [**2190-1-31**]  09:02 AM
                            [**2190-1-31**]  01:32 PM
                            [**2190-2-1**]  04:51 AM
                            [**2190-2-1**]  12:30 PM
                            [**2190-2-1**]  07:03 PM
   WBC
   9.5
   6.2
   Hct
   41.6
   37.6
   Plt
   134
   112
   Cr
   2.0
   1.9
   1.8
   1.7
   1.5
   1.5
   Glucose
   106
   106
   110
   104
   86
   Other labs: Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: No new imaging
   Microbiology: [**1-30**] Urine Cx proteus sp
   [**1-30**] Blood Cx pend
   Assessment and Plan
   [**Age over 90 **] yo F with dementia, admitted for hypernatremia and AMS.
   # Hypernatremia:  Likely due to poor free water intake in setting of
   furosemide.  Free water deficit was about 7.6-9.2L upon admission,
   today is 3.5 L.  Ideally, patient should be corrected at a rate of
   0.5mEq/hour over a 3 day period, goal of 10 mEq drop per 24 hours.
   - Give decrease of only 1 mEq in 8 hrs, will change to D5W at 75cc/hr
   and recheck Na in 6 hours
   - monitor Q6 hour serum sodium -> PICC requested for access
   - appreciate input from renal
   # Altered mental status:  At baseline according to daughter.  Though
   also exacerbated by abnormal electrolytes.
   - Treat hypernatremia and UTI
   - Avoid sedating meds
   - Monitor for delirium
   # Acute renal failure:  baseline Cr 1.3-1.7, last Cr 1.5
   Suspect that patient was dehydrated, and lasix and lisinopril may have
   contributed to the toxicity of her prerenal state.  We will hold
   nephrotoxic agens (lasix and lisinopril), trend cr, and continue IVF.
   - continue ceftriaxone for UTI (day 3 today); continue until
   sensitivities return then adjust accordingly
   - f/u urine culture
   - leave in foley now due to hypernatremia
   # HTN:  initially held meds given ARF.
   - Would restart lisinopril today.
   - cont to hold lasix given euvolemia
   - cont ASA
   # Hyperlipidemia:  continue statin
   # Goals of care:
   - patient will need repeat S&S when hypernatremia resolved; if
   continuing to aspirate will address goals of care re nutrition with
   daughter
   ICU [**Name2 (NI) 232**]
   Nutrition: puree and nectar thickened liquids, S&S eval shows
   aspiration with thin liquids, ok with nectar thickened
   Glycemic Control:
   Lines:
   22 Gauge - [**2190-1-31**] 08:06 PM
   -will attempt to place picc today
   Prophylaxis:
   DVT:  heparin SQ
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: Daughter [**First Name4 (NamePattern1) 919**] [**Known lastname **] (cell) [**Telephone/Fax (1) 10080**];
   (home) [**Telephone/Fax (1) 10081**].
   Code status: DNR / DNI
   Disposition: callout to floor ; will need screening to return to NH

2190-02-02 11:05:00 Physician Attending Progress Note
Chief Complaint: Hypernatremia
   Altered Mental Status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with free water provided with continued decrease in Na+
   -Have had peripheral blood draws but will need PICC line for continued
   support.
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-2-2**] 08:27 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-2-2**] 09:47 AM
   Famotidine (Pepcid) - [**2190-2-2**] 10:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2190-2-2**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 65 (50 - 65) bpm
   BP: 159/42(141) {117/32(63) - 182/140(146)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,702 mL
                                                                  1,374 mL
   PO:
             TF:
   IVF:
                                                                  1,702 mL
                                                                  1,374 mL
   Blood products:
   Total out:
                                                                    725 mL
                                                                    345 mL
   Urine:
                                                                    725 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    977 mL
                                                                  1,029 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///21/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic), [**3-13**]
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed, not organized response
   Labs / Radiology
   12.2 g/dL
   99 K/uL
   88 mg/dL
   1.4 mg/dL
   21 mEq/L
   5.1 mEq/L
   59 mg/dL
   133 mEq/L
   161 mEq/L
   37.3 %
   5.7 K/uL
        [image002.jpg]
                            [**2190-1-31**]  03:47 AM
                            [**2190-1-31**]  09:02 AM
                            [**2190-1-31**]  01:32 PM
                            [**2190-2-1**]  04:51 AM
                            [**2190-2-1**]  12:30 PM
                            [**2190-2-1**]  07:03 PM
                            [**2190-2-2**]  08:28 AM
   WBC
   9.5
   6.2
   5.7
   Hct
   41.6
   37.6
   37.3
   Plt
   134
   112
   99
   Cr
   2.0
   1.9
   1.8
   1.7
   1.5
   1.5
   1.4
   Glucose
   106
   106
   110
   104
   86
   88
   Other labs: Ca++:9.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Microbiology: Urine-Proteus
   Assessment and Plan
   [**Age over 90 **] yo female admitted with hypernatremia and altered mental status with
   Proteus UTI noted.  With treatment for UTI and correction of sodium to
   161 patient has had substantial improvement in mental status including
   patient now responsive to verbal questions and following of some
   limited commands.
   1)
 Hypernatremia
Free water deficit is at 3 liters and will move to
   D5W at 75cc/hr today.
   -Will follow lytes q 4 hours
   -Will pursue PICC today
   -Appreciate renal consult support
   ICU Care
   Nutrition: Speech and Swallow completed
will have patient with feedings
   based upon recs from evaluation
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-2-2**] 08:26 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent: 33 minutes